US08835472B2
2-(4-Iodo-phenyl)-1,1-dimethyl-ethylamine
To 1.10 g (2.93 mmol) [2-(4-iodophenyl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (I52.9) in 8 ml methanol are added 7.04 ml HCl (1.25 mol/l in MeOH) and the solution is stirred at 50° C. for 3 h. The solvent is removed under reduced pressure and the resulting crude product is purified by HPLC (H2O/MeOH/NH3).

reactant | [2-(4-iodophenyl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 2.93 mmol, 1.10 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)I)(C)C)=O | C15H22INO2
reactant | HCl | 1.25 mol/l, 7.04 ml | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | 2-(4-Iodo-phenyl)-1,1-dimethyl-ethylamine | IC1=CC=C(C=C1)CC(C)(C)N | C10H14IN
